US03978064
3-Phenoxyethylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester
A solution of 1.6 g. of 3-hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester and 685 mg. of phenoxyethylamine in 15 ml. of benzene is allowed to stir overnight at room temperature. The reaction mixture is concentrated to an oil and partitioned between 50 ml. of chloroform and 50 ml. of 1N aqueous sodium hydroxide. The chloroform layer is separated, dried over magnesium sulfate and concentrated to give 1.9 g. of the desired product as a foam.

reactant | 3-hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | OC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C16H19NO6
reactant | phenoxyethylamine | O(C1=CC=CC=C1)CCN | C8H11NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-Phenoxyethylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | O(C1=CC=CC=C1)CCNC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C24H28N2O6
